US04126624
2(1-hydroxy ethyl)-2,3,5-trimethoxy-2,5-dihydrofuran (2.30 g, 0.012 moles) was stirred at room temperature for 4 hours in 50 ml of 1N H2SO4. Isolation as described in Example 9 gave 67% assayed yield of pure maltol.

reactant | 2(1-hydroxy ethyl)-2,3,5-trimethoxy-2,5-dihydrofuran | 0.012 moles, 2.30 g | OC(C)C1(OC(C=C1OC)OC)OC | C9H16O5
solvent | H2SO4 | 1N, 50 ml | OS(=O)(=O)O | H2O4S
product | maltol | CC1=C(C(=O)C=CO1)O | C6H6O3
